US08729061B2
Step 1: 1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonitrile
Under an atmosphere of argon, 5-chloro-2,3-difluoropyridine (6 g, 4.17 ml, 40.1 mmol, Eq: 1.00) was combined with toluene (60.0 ml). Then cyclopropanecarbonitrile (2.69 g, 3.02 ml, 40.1 mmol, Eq: 1.00) was added to the solution. At −5° C., potassium bis(trimethylsilyl)amide (80.3 ml, 40.1 mmol, Eq: 1.00) was added dropwise over 30 min. The dark brown reaction was stirred for 1 hour at −5° C., and then for 2 h at room temperature. The reaction mixture was poured into satd. NH4Cl solution (50 ml) and extracted with 2×100 ml ethyl acetate. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The crude material was purified by flash chromatography (70 g column, from 100% to 50% heptane in ethyl acetate). The title compound was obtained as a orange oil (1.55 g, 13.8%, MS (m/e)=197.2 [M+H+].

reactant | 5-chloro-2,3-difluoropyridine | 40.1 mmol, 4.17 ml, 6 g | ClC=1C=C(C(=NC1)F)F | C5H2ClF2N
reactant | cyclopropanecarbonitrile | 40.1 mmol, 3.02 ml, 2.69 g | C1(CC1)C#N | C4H5N
reactant | potassium bis(trimethylsilyl)amide | 40.1 mmol, 80.3 ml | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | toluene | 60.0 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-chloro-3-fluoropyridin-2-yl)cyclopropanecarbonitrile | ClC=1C=C(C(=NC1)C1(CC1)C#N)F | C9H6ClFN2
